US04665070
A stoichiometric amount of 3% hydrogen chloride in dioxane is added to a solution of 1.0 g. of 7-amino-2-ethoxy-4H-3,1-benzoxazin-4-one in 20 ml dioxane. Diethyl ether is added until precipitation is complete. The product is filtered, washed with ether, air dried and recrystallized to give 7-amino-2-ethoxy-4H-3,1-benzoxazin-4-one hydrochloride.

reactant | hydrogen chloride | Cl | ClH
reactant | 7-amino-2-ethoxy-4H-3,1-benzoxazin-4-one | NC1=CC2=C(C(OC(=N2)OCC)=O)C=C1 | C10H10N2O3
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | 7-amino-2-ethoxy-4H-3,1-benzoxazin-4-one hydrochloride | Cl.NC1=CC2=C(C(OC(=N2)OCC)=O)C=C1 | InChI=1S/C10H10N2O3.ClH/c1-2-14-10-12-8-5-6(11)3-4-7(8)9(13)15-10;/h3-5H,2,11H2,1H3;1H
